US09422331B2
A rt suspension of tert-butyl(S)-1-((2S,3S)-1-acetyl-5-((2-methoxynaphthalen-1-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (49.8 mg, 84.6 μmol) in 4 M HCl in dioxane (423 μl) was stirred for 2 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((2S,3S)-1-acetyl-5-((2-methoxynaphthalen-1-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (32.4 mg, 73%) as a white solid. MS m/z 489 (MH)+.

reactant | tert-butyl(S)-1-((2S,3S)-1-acetyl-5-((2-methoxynaphthalen-1-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 84.6 μmol, 49.8 mg | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=C(C=CC3=CC=CC=C13)OC)C=CC=C2 | C33H40N4O6
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 423 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((2S,3S)-1-acetyl-5-((2-methoxynaphthalen-1-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 32.4 mg, 73% | Cl.C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)NC)=O)=O)CC1=C(C=CC3=CC=CC=C13)OC)C=CC=C2 | InChI=1S/C28H32N4O4.ClH/c1-17(29-4)27(34)30-26-18(2)32(19(3)33)24-13-9-8-12-23(24)31(28(26)35)16-22-21-11-7-6-10-20(21)14-15-25(22)36-5;/h6-15,17-18,26,29H,16H2,1-5H3,(H,30,34);1H/t17-,18-,26-;/m0./s1
